US07884101B2
To a solution of 3-(4-bromo-2-methyl-2H-pyrazol-3-yl)-4-(2-[1,4]oxazepan-4-yl-ethoxy)-phenylamine (0.06 g, 0.152 mmol), and N,N-diisopropylethylamine (0.0529 mL, 0.304 mmol) in 3.0 mL of DMA was added slowly 3-fluoro-4-(trifluoromethyl)benzoyl chloride (0.0278 mL, 0.182 mmol) and the reaction mixture was stirred at ambient temperature overnight. The reaction mixture was diluted to 5.0 mL with DMSO and subjected to purification on a RP-HPLC. The proper fractions were collected and lyophilized to furnish N-[3-(4-Bromo-2-methyl-2H-pyrazol-3-yl)-4-(2-[1,4]oxazepan-4-yl-ethoxy)-phenyl]-3-fluoro-4-trifluoromethyl-benzamide as an off-white semisolid in 53% yield. LCMS m/z (%)=585 (M+H 79Br, 100), 587 (M+H 81Br, 98). 1H NMR (400 MHz, DMSO-d6) δ: 10.3 (bs, 1H), 8.06 (d, J=11.27 Hz, 1H), 7.95-8.01 (m, 3H), 7.72 (d, J=2.60 Hz, 1H), 7.68 (d, J=2.36 Hz, 1H), 7.31 (d. J=9.48 Hz, 1H), 4.35-4.44 (m, 2H), 3.5-3.9 (m, 10H), 2.51-2.69 (m, 5H).

reactant | 3-(4-bromo-2-methyl-2H-pyrazol-3-yl)-4-(2-[1,4]oxazepan-4-yl-ethoxy)-phenylamine | 0.152 mmol, 0.06 g | BrC1=C(N(N=C1)C)C=1C=C(C=CC1OCCN1CCOCCC1)N | C17H23BrN4O2
reactant | N,N-diisopropylethylamine | 0.304 mmol, 0.0529 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 3-fluoro-4-(trifluoromethyl)benzoyl chloride | 0.182 mmol, 0.0278 mL | FC=1C=C(C(=O)Cl)C=CC1C(F)(F)F | C8H3ClF4O
solvent | DMA | 3.0 mL | CC(=O)N(C)C | C4H9NO
solvent | DMSO | CS(=O)C | C2H6OS
product | N-[3-(4-Bromo-2-methyl-2H-pyrazol-3-yl)-4-(2-[1,4]oxazepan-4-yl-ethoxy)-phenyl]-3-fluoro-4-trifluoromethyl-benzamide | 53% yield | BrC1=C(N(N=C1)C)C=1C=C(C=CC1OCCN1CCOCCC1)NC(C1=CC(=C(C=C1)C(F)(F)F)F)=O | C25H25BrF4N4O3
